data/oMe_Silver.jsonl
{"reaction_id": "NR-208_1-c1ccc(Cl)cc1_2-C=C_3-C(C)OC_4-c1cnccn1","level": "easy","name": "Overman Rearrangement","reactants_smiles": ["C(c1ccc(Cl)cc1)=C(C=C)C(C(C)OC)(c1cnccn1)OC=N"],"products_smiles": ["C(=O)NC(c1ccc(Cl)cc1)C(C=C)=C(C(C)OC)(c1cnccn1)"],"conditions": "None","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=O)NC(c1ccc(Cl)cc1)C(C=C)=C(C(C)OC)(c1cnccn1)","step_weight": 0,"rationale": "Thermal activation enables a [3,3]-sigmatropic shift via a six-membered cyclic transition state, with allylic π-orbitals and imidate lone pairs overlapping to form a more stable amide through resonance stabilization."}],"description": "The allylic imidate undergoes a concerted [3,3]-sigmatropic rearrangement under thermal conditions, shifting the connectivity to form an allylic amide. This pericyclic process is driven by favorable orbital overlap and the thermodynamic stability of the amide product."}
{"reaction_id": "NR-331_1-C(C)(C)C_2-c1ccc(OC)cc1_3-C(C)C_4-c1sccc1_5-C1CC1","level": "easy","name": "Reformatsky Reaction","reactants_smiles": ["C(Br)(c1ccc(OC)cc1)(C(C)C)C(=O)OC(C)(C)C","O=C(c1sccc1)C1CC1","[Zn]"],"products_smiles": ["C(C(O)(c1sccc1)C1CC1)(c1ccc(OC)cc1)(C(C)C)C(=O)OC(C)(C)C"],"conditions": "1. Zn dust; 2. Aqueous workup","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "C(C)(C)COC(=O)C(c1ccc(OC)cc1)(C(C)C)[Zn]Br","step_weight": 0,"rationale": "Zinc undergoes oxidative addition into the C–Br bond due to the electrophilicity of the α-carbon adjacent to the ester carbonyl, forming a stabilized organozinc species that is less reactive than a Grignard reagent."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C([O-])(c1sccc1)C1CC1)(c1ccc(OC)cc1)(C(C)C)C(=O)OC(C)(C)C.[Zn+2].[Br-]","step_weight": 0,"rationale": "The organozinc reagent acts as a soft nucleophile, attacking the electrophilic carbonyl carbon of the aldehyde; the ester group remains intact due to the mild nucleophilicity of zinc enolates."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(O)(c1sccc1)C1CC1)(c1ccc(OC)cc1)(C(C)C)C(=O)OC(C)(C)C","step_weight": 0,"rationale": "Aqueous workup protonates the alkoxide intermediate, driven by the strong thermodynamic preference for neutral alcohol formation under acidic or neutral conditions."}],"description": "Zinc inserts into the α-bromo ester via oxidative addition, forming an organozinc reagent. This nucleophilic species adds to the aldehyde, generating an alkoxide intermediate. Aqueous workup protonates the alkoxide, yielding the β-hydroxy ester product characteristic of the Reformatsky reaction."}
